US09193829B2
ClPAMI Prepared without Phthalic Anhydride (“PA-free ClPAMI”)
In the “In Situ ClPAMI” procedure, the five-necked flask setup described above was used. The ClPAMI was synthesized in the five-necked flask by reacting two moles of chlorophthalic anhydride with one mole of mPD using oDCB as solvent. The water formed was removed by distillation until a moisture content of less than 20 ppm in the distillate was obtained. Then, HEGCl, a phase transfer catalyst, was added in an amount of 0.6 weight %, based on the ClPAMI amount. More oDCB was distilled off to confirm that the moisture level was less than 20 ppm in the distillate. Then, a slurry of Na2BPA and NaPCP in oDCB in the second flask was transferred to the five-necked flask using the addition tube in communication with the second flask, and polymerization was conducted at 180° C.

reactant | chlorophthalic anhydride | two moles | ClC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3ClO3
reactant | water | O | H2O
solvent | oDCB | C1=CC(=C(C=C1)Cl)Cl | C6H4Cl2
product | Phthalic Anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
